** sch_path: /home/madvlsi/SKY130-AY38910/DAC/DAC2TB.sch
**.subckt DAC2TB VP VN A0 A1 A2 A3 Vout
*.iopin VP
*.iopin VN
*.ipin A0
*.ipin A1
*.ipin A2
*.ipin A3
*.opin Vout
R1 net17 net1 206 m=1
R2 net1 net2 290 m=1
R3 net2 net3 409 m=1
R4 net3 net4 587 m=1
R5 net4 net5 818 m=1
R6 net5 net6 1.19k m=1
R7 net6 net7 1.6k m=1
R8 net7 net8 2.31k m=1
R9 net8 net9 3.29k m=1
R10 net9 net10 4.62k m=1
R11 net10 net11 6.49k m=1
R12 net11 net12 9.24k m=1
R13 net12 net13 12.98k m=1
R14 net13 net14 18.40k m=1
R15 net14 net15 25.96k m=1
R16 net15 VP 71.1k m=1
XM1 net16 MUX0 net17 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R17 VN net17 500 m=1
R18 Vout net16 10k m=1
XM2 net16 MUX1 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net16 MUX2 net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net16 MUX3 net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net16 MUX4 net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net16 MUX5 net5 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net16 MUX6 net6 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net16 MUX7 net7 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net16 MUX8 net8 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 net16 MUX9 net9 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 net16 MUX10 net10 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 net16 MUX11 net11 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 net16 MUX12 net12 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM14 net16 MUX13 net13 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 net16 MUX14 net14 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM16 net16 MUX15 net15 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x2 A3 A2 A0 A1 MUX0 MUX1 MUX2 MUX3 MUX4 MUX5 MUX6 MUX7 MUX8 MUX9 MUX10 MUX11 MUX12 MUX13 MUX14 MUX15 VP VN decoder
**.ends

* expanding   symbol:  decoder.sym # of pins=22
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/decoder.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/decoder.sch
.subckt decoder A3 A2 A0 A1 MUX0 MUX1 MUX2 MUX3 MUX4 MUX5 MUX6 MUX7 MUX8 MUX9 MUX10 MUX11 MUX12 MUX13 MUX14 MUX15 VP VN
*.iopin MUX0
*.iopin MUX1
*.iopin MUX2
*.iopin MUX3
*.iopin MUX4
*.iopin MUX5
*.iopin MUX6
*.iopin MUX7
*.iopin MUX8
*.iopin MUX9
*.iopin MUX10
*.iopin MUX11
*.iopin MUX12
*.iopin MUX13
*.iopin MUX14
*.iopin MUX15
*.ipin A0
*.ipin A1
*.ipin A2
*.ipin A3
*.iopin VP
*.iopin VN
x8 A3 A2 A1 A0 MUX15 VP VN AND_4
x4 A3 A2 A1 net1 MUX14 VP VN AND_4
x5 A3 A2 net2 A0 MUX13 VP VN AND_4
x6 A3 A2 net2 net1 MUX12 VP VN AND_4
x7 A3 net3 A1 A0 MUX11 VP VN AND_4
x9 A3 net3 A1 net1 MUX10 VP VN AND_4
x10 A3 net3 net2 A0 MUX9 VP VN AND_4
x11 A3 net3 net2 net1 MUX8 VP VN AND_4
x12 net4 A2 A1 A0 MUX7 VP VN AND_4
x13 net4 A2 A1 net1 MUX6 VP VN AND_4
x14 net4 A2 net2 A0 MUX5 VP VN AND_4
x15 net4 A2 net2 net1 MUX4 VP VN AND_4
x16 net4 net3 A1 A0 MUX3 VP VN AND_4
x17 net4 net3 A1 net1 MUX2 VP VN AND_4
x18 net4 net3 net2 A0 MUX1 VP VN AND_4
x19 net4 net3 net2 net1 MUX0 VP VN AND_4
X3 A3 net4 VP VN inverter
X2 A2 net3 VP VN inverter
X1 A1 net2 VP VN inverter
X20 A0 net1 VP VN inverter
.ends


* expanding   symbol:  AND_4.sym # of pins=7
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/AND_4.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/AND_4.sch
.subckt AND_4 A B C D Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
*.ipin C
*.ipin D
x0 B A net1 VP VN AND
x1 net2 net1 Y VP VN AND
x3 C D net2 VP VN AND
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/inverter.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/inverter.sch
.subckt inverter A Y VP VN
*.ipin A
*.opin Y
*.iopin VN
*.iopin VP
XM2 Y A VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  AND.sym # of pins=5
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/AND.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/AND.sch
.subckt AND A B Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
x1 A B net1 VP VN NAND
X2 net1 Y VP VN inverter
.ends


* expanding   symbol:  NAND.sym # of pins=5
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/NAND.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/NAND.sch
.subckt NAND A B Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
XM2 Y A net1 VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM11 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y B VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
.ends

.end
